US05498630
2-Chloro-N-(isopropylaminocarbonyl)-6-(trimethylsilyl)benzamide
2-Chloro-6-trimethylsilylbenzoyl isocyanate (1.3 g, 5 mmol) was dissolved in 40 mL toluene and isopropyl amine (1 g) added over a period of 30 seconds. After stirring 30 min, the solvent was removed to yield an oil. The oil was dissolved in hexane and cooled in dry ice to yield 1.2 g of crystals of the title compound. m.p. 113°-116° C.

reactant | 2-Chloro-6-trimethylsilylbenzoyl isocyanate | 5 mmol, 1.3 g | ClC1=C(C(=O)N=C=O)C(=CC=C1)[Si](C)(C)C | C11H12ClNO2Si
reactant | isopropyl amine | 1 g | C(C)(C)N | C3H9N
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | dry ice | C(=O)=O | CO2
product | 2-Chloro-N-(isopropylaminocarbonyl)-6-(trimethylsilyl)benzamide | ClC1=C(C(=O)NC(=O)NC(C)C)C(=CC=C1)[Si](C)(C)C | C14H21ClN2O2Si
